US05166380
66 ml of HBr at 33% by weight in acetic acid are added to 4.9 g (11.5 moles) of 4,4'-biphenyl-diphosphonic acid tetra-ethyl ester and the mixture is heated at 80° C. for 4 hours. After cooling to ambient temperature, 150 ml of H2O are added under agitation and the precipitate obtained is filtered, washed with water and vacuum dried (20 mm Hg) at 45° C. for one night. 2.29 g of 4,4'-biphenyl-diphosphonic acid, with a molar yield of 66% are obtained.

reactant | HBr | 66 ml | Br | BrH
reactant | 4,4'-biphenyl-diphosphonic acid tetra-ethyl ester | 11.5 moles, 4.9 g | C(C)OP(OCC)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)P(OCC)(=O)OCC | C20H28O6P2
reactant | H2O | 150 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,4'-biphenyl-diphosphonic acid | 2.29 g, yield of 66% | C1(=CC=C(C=C1)P(O)(=O)O)C1=CC=C(C=C1)P(O)(=O)O | C12H12O6P2
